US06448397B1
To a mixture of 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol (3.0 g 9.96 mmol) and potassium carbonate (6.9 g, 50 mmol) in dry DMF (70 mL) is added 1-bromo-2-chloroethane (4.0 mL, 50 mmol). The mixture is heated to 85° C. for 8.25 h. The mixture is then partitioned between water and Et2O. The organic layer is separated and washed three times with water (100 mL), dried over anhydrous sodium sulfate, filtered and concentrated. Column chromatography (200 mL silica) using CH2C2/hexanes (1/1) as eluent gave 3.4 g (94%) of 7-(2-chloroethoxy)-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazole.

reactant | 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol | 9.96 mmol, 3.0 g | C1(=CC=CC=C1)C1COC=2C=CC=C3C4=C(C=CC=C4N1C23)O | C20H15NO2
reactant | potassium carbonate | 50 mmol, 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 50 mmol, 4.0 mL | BrCCCl | C2H4BrCl
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 7-(2-chloroethoxy)-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazole | 3.4 g, 94% | ClCCOC1=CC=CC=2N3C4=C(C=CC=C4C12)OCC3C3=CC=CC=C3 | C22H18ClNO2
